US07407963B2
methyl trans-4-(4-amino-3,5-dibromophenyl)-4-oxobutenoate
A mixture of 5.6 g (0.016 mol) of trans-4-(4-amino-3,5-dibromophenyl)-4-oxobutenoic acid, 50 mL of anhydrous methanol, and 4.0 g (0.0368 mol) of trimethylchlorosilane was stirred for 3 days at ambient temperature. The solvent was removed in vacuo, the residue was divided between ethyl acetate and 10% sodium hydrogen carbonate solution. The organic phase was dried over sodium sulfate, evaporated down once more in vacuo, and yielded 5.8 g (100% of theoretical) of a colorless oil which was used without any further purification. MS: M+=361/363/365 (Br2).

reactant | trans-4-(4-amino-3,5-dibromophenyl)-4-oxobutenoic acid | 0.016 mol, 5.6 g | NC1=C(C=C(C=C1Br)C(/C=C/C(=O)O)=O)Br | C10H7Br2NO3
reactant | trimethylchlorosilane | 0.0368 mol, 4.0 g | C[Si](Cl)(C)C | C3H9ClSi
solvent | methanol | 50 mL | CO | CH4O
product | methyl trans-4-(4-amino-3,5-dibromophenyl)-4-oxobutenoate | NC1=C(C=C(C=C1Br)C(/C=C/C(=O)OC)=O)Br | C11H9Br2NO3
